US08133909B2
(S)-2-Hydroxy-N—((R)-4-hydroxy-chroman-6-yl)-2-phenyl-N-[2-(6-trifluoromethyl-pyridin-3-yl)-ethyl]-acetamide
In analogy to example 55, 6-Amino-chroman-4-ol (WO 2003063794), (6-Trifluoromethyl-pyridin-3-yl)-acetonitrile & (S)-(+)-O-acetyl-L-mandelic acid were successively coupled then hydrolysed to give after silica gel chromatography the target compound. MS(m/e): 473.1 [M+H]+.

reactant | 6-Amino-chroman-4-ol | NC=1C=C2C(CCOC2=CC1)O | C9H11NO2
reactant | (6-Trifluoromethyl-pyridin-3-yl)-acetonitrile | FC(C1=CC=C(C=N1)CC#N)(F)F | C8H5F3N2
reactant | (S)-(+)-O-acetyl-L-mandelic acid | C(C)(=O)OC([C@@H](O)C1=CC=CC=C1)=O | C10H10O4
product | (S)-2-Hydroxy-N—((R)-4-hydroxy-chroman-6-yl)-2-phenyl-N-[2-(6-trifluoromethyl-pyridin-3-yl)-ethyl]-acetamide | O[C@H](C(=O)N(CCC=1C=NC(=CC1)C(F)(F)F)C=1C=C2[C@@H](CCOC2=CC1)O)C1=CC=CC=C1 | C25H23F3N2O4
